US05409943
(b) N-(3-(2-Bromobenzyloxy)-2-pyridyl)phenylacetamidine
A mixture of 2-amino-3-(2-bromobenzyloxy)pyridine (5.58 g, 20 mmol) and ethyl phenylacetimidate hydrochloride (4.39 g, 22 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave a residue which was purified by chromatography (silica, chloroform/methanol) and recrystallisation from ethanol/ether to obtain the product (0.28 g), m.p. 158°-169° C.

reactant | 2-amino-3-(2-bromobenzyloxy)pyridine | 20 mmol, 5.58 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)Br | C12H11BrN2O
reactant | ethyl phenylacetimidate hydrochloride | 22 mmol, 4.39 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(3-(2-Bromobenzyloxy)-2-pyridyl)phenylacetamidine | 0.28 g | BrC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=CC=C1 | C20H18BrN3O
